US04829067
A solution of 147 mg of acetyl chloride in 2 ml of toluene is added dropwise to a mixture of 522 mg of 2-piperidinoethyl 5-amino-2-phenylbenzofuran-7-carboxylate, 210 mg of sodium bicarbonate and 10 ml of ethyl acetate under ice-cooling. The mixture is stirred at the same temperature for 30 minutes and the reaction mixture is extracted with ethyl acetate. The extract is washed with water, dried and evaporated to remove solvent. The residue is recrystallized from ethyl acetate to give 467 mg of 2-piperidinoethyl 5-acetamido-2-phenylbenzofuran-7-carboxylate as pale yellow needles.

reactant | acetyl chloride | 147 mg | C(C)(=O)Cl | C2H3ClO
reactant | 2-piperidinoethyl 5-amino-2-phenylbenzofuran-7-carboxylate | 522 mg | NC=1C=C(C2=C(C=C(O2)C2=CC=CC=C2)C1)C(=O)OCCN1CCCCC1 | C22H24N2O3
reactant | sodium bicarbonate | 210 mg | C([O-])(O)=O.[Na+]
reactant | ethyl acetate | 10 ml | C(C)(=O)OCC | C4H8O2
solvent | toluene | 2 ml | C1(=CC=CC=C1)C | C7H8
product | 2-piperidinoethyl 5-acetamido-2-phenylbenzofuran-7-carboxylate | 467 mg | C(C)(=O)NC=1C=C(C2=C(C=C(O2)C2=CC=CC=C2)C1)C(=O)OCCN1CCCCC1 | C24H26N2O4
